US05500453
A solution of 4.17 g of lithium tetramethylammonium methyltris(p-methoxyphenyl)borate in 50 ml of acetonitrile was added to a solution of 5.00 g of bis(p-chlorophenyl)(3,3-dicyano-2-methyl-2-propenyl)sulfonium hexafluorophosphate in 100 ml of acetonitrile, and the resultant mixture was stirred at room temperature for 30 minutes. Then, 200 ml of water was added. The resultant precipitate of a yellow oily component was recovered, and 100 ml of dichloromethane was added. The dichloromethane layer was washed with water, dried and concentrated to give 2.85 g of bis(p-chlorophenyl)(3,3-dicyano-2-methyl-2-propenyl) sulfonium-methyltris(p-methoxyphenyl)borate.

reactant | lithium tetramethylammonium methyltris(p-methoxyphenyl)borate | 4.17 g | C[B-](C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC.C[N+](C)(C)C.[Li]
reactant | bis(p-chlorophenyl)(3,3-dicyano-2-methyl-2-propenyl)sulfonium hexafluorophosphate | 5.00 g | F[P-](F)(F)(F)(F)F.ClC1=CC=C(C=C1)[S+](CC(=C(C#N)C#N)C)C1=CC=C(C=C1)Cl
reactant | water | 200 ml | O | H2O
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | bis(p-chlorophenyl)(3,3-dicyano-2-methyl-2-propenyl) sulfonium-methyltris(p-methoxyphenyl)borate | 2.85 g | C[B-](C1=CC=C(C=C1)OC)(C1=CC=C(C=C1)OC)C1=CC=C(C=C1)OC.ClC1=CC=C(C=C1)[S+](CC(=C(C#N)C#N)C)C1=CC=C(C=C1)Cl | InChI=1S/C22H24BO3.C18H13Cl2N2S/c1-23(17-5-11-20(24-2)12-6-17,18-7-13-21(25-3)14-8-18)19-9-15-22(26-4)16-10-19;1-13(14(10-21)11-22)12-23(17-6-2-15(19)3-7-17)18-8-4-16(20)5-9-18/h5-16H,1-4H3;2-9H,12H2,1H3/q-1;+1
